US05856334
Preparation of 5,6-dihydro-2-(2-phenylethyl)-4H-imidazo[4,5,1-ij]quinoline
Thirty-five grams of 8-amino-1,2,3,4-tetrahydroquinoline was dissolved in methanol (700 mL) and, following the addition of 3-phenylpropionaldehyde (37.4 mL) and 1N HCl (7 mL) and subsequent stirring at room temperature for 1 hr, silica gel (75 g) was added to the reaction solution and the solvent was removed under reduced pressure. The residue was heated at 100° C. for 1 hr, purified by silica gel column chromatography (eluent: dichloromethane/ethyl acetate) and recrystallized with ethyl acetate to yield the titled compound as pale yellow crystals (19.3 g).

reactant | 8-amino-1,2,3,4-tetrahydroquinoline | Thirty-five grams | NC=1C=CC=C2CCCNC12 | C9H12N2
reactant | 3-phenylpropionaldehyde | 37.4 mL | C1(=CC=CC=C1)CCC=O | C9H10O
reactant | HCl | 1N, 7 mL | Cl | ClH
solvent | methanol | 700 mL | CO | CH4O
product | 5,6-dihydro-2-(2-phenylethyl)-4H-imidazo[4,5,1-ij]quinoline | 19.3 g | C1(=CC=CC=C1)CCC1=NC=2C=CC=C3CCCN1C23 | C18H18N2
